data/preprocessed/USPTO_50_suzuki.csv
mech_smi,rxn_idx,step_idx_retro,source,source_db,split
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC#N.CC(C)(C)OC(=O)N1CCC(CNC2=CC(Cl)=NC=C2I)CC1.COCC=CB1OC(C)(C)C(C)(C)O1.O=C([O-])[O-].[Na+].[Na+].[Pd:2]|(1, 2)",12,6,reaction_47,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:1])C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC#N.CC(C)(C)OC(=O)N1CCC(CNC2=CC(Cl)=NC=C2I)CC1.COCC=CB1OC(C)(C)C(C)(C)O1.O=C([O-])[O-].[Na+].[Na+]|(2, 1)",12,5,reaction_47,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:2][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC#N.CC(C)(C)OC(=O)N1CCC(CNC2=CC(Cl)=NC=[C:1]2[I:3])CC1.COCC=CB1OC(C)(C)C(C)(C)O1.O=C([O-])[O-].[Na+].[Na+]|(2, 1);((1, 3), 2)",12,4,reaction_47,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC#N.CC(C)(C)OC(=O)N1CCC(CNC2=CC(Cl)=NC=[C]2[Pd-2:3]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[I:4])CC1.COCC=CB1OC(C)(C)C(C)(C)O1.O=C([O-])[O-:1].[Na+:2].[Na+]|(1, 3);((3, 4), 2)",12,3,reaction_47,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC#N.CC(C)(C)OC(=O)N1CCC(CNC2=CC(Cl)=NC=[C]2[Pd-2:2]([O]C(=O)[O-])([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CC1.COCC=[CH:3][B:1]1OC(C)(C)C(C)(C)O1.[Na+].[Na][I]|(2, 3);((3, 1), 2)",12,2,reaction_47,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC#N.COCC=[CH][Pd-2:3]([C]1=CN=C(Cl)C=C1NCC1CCN(C(=O)OC(C)(C)C)CC1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([O:1]C(=O)[O-])[B:2]1OC(C)(C)C(C)(C)O1.[Na+].[Na][I]|((3, 1), 2);((2, 3), 3)",12,1,reaction_47,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC#N.CC1(C)OB(OC(=O)[O-])OC1(C)C.COCC=[CH:1][Pd-2:2]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:3]1=CN=C(Cl)C=C1NCC1CCN(C(=O)OC(C)(C)C)CC1.[Na+].[Na][I]|((2, 3), 1);((1, 2), 2)",12,0,reaction_47,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C)(C)OC(=O)N1CCC(COCC2=CC(C(F)(F)F)=CC3=C(Br)N(COCC[Si](C)(C)C)N=C23)(C2=CC=CC=C2)CC1.O=C([O-])[O-].OB(O)C1CC1.[Na+].[Na+].[Pd:2]|(1, 2)",31,6,reaction_23,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:2])C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C)(C)OC(=O)N1CCC(COCC2=CC(C(F)(F)F)=CC3=C(Br)N(COCC[Si](C)(C)C)N=C23)(C2=CC=CC=C2)CC1.O=C([O-])[O-].OB(O)C1CC1.[Na+].[Na+]|(1, 2)",31,5,reaction_23,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:1][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C)(C)OC(=O)N1CCC(COCC2=CC(C(F)(F)F)=CC3=[C:2]([Br:3])N(COCC[Si](C)(C)C)N=C23)(C2=CC=CC=C2)CC1.O=C([O-])[O-].OB(O)C1CC1.[Na+].[Na+]|(1, 2);((2, 3), 1)",31,4,reaction_23,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C)(C)OC(=O)N1CCC(COCC2=CC(C(F)(F)F)=CC3=[C]([Pd-2:4]([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)[Br:1])N(COCC[Si](C)(C)C)N=C23)(C2=CC=CC=C2)CC1.O=C([O-])[O-:3].OB(O)C1CC1.[Na+:2].[Na+]|(3, 4);((4, 1), 2)",31,3,reaction_23,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C)(C)OC(=O)N1CCC(COCC2=CC(C(F)(F)F)=CC3=[C]([Pd-2:3]([O]C(=O)[O-])([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)[P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)N(COCC[Si](C)(C)C)N=C23)(C2=CC=CC=C2)CC1.O[B:2](O)[CH:1]1CC1.[Na+].[Na][Br]|(3, 1);((1, 2), 3)",31,2,reaction_23,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C)(C)OC(=O)N1CCC(COCC2=CC(C(F)(F)F)=CC3=[C]([Pd-2:3]([CH]4CC4)([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)([O:1]C(=O)[O-])[B:2](O)O)N(COCC[Si](C)(C)C)N=C23)(C2=CC=CC=C2)CC1.[Na+].[Na][Br]|((3, 1), 2);((2, 3), 3)",31,1,reaction_23,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C)(C)OC(=O)N1CCC(COCC2=CC(C(F)(F)F)=CC3=[C:2]([Pd-2:3]([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)[CH:1]4CC4)N(COCC[Si](C)(C)C)N=C23)(C2=CC=CC=C2)CC1.O=C([O-])OB(O)O.[Na+].[Na][Br]|((3, 2), 1);((1, 3), 3)",31,0,reaction_23,USPTO_suzuki,train
